US06162809
13. 4-[3-(4-Benzyl-1-piperazinyl)propylthio]-3-methyl -2-[(4-pyridinylthio)methyl]pyridine
According to the procedure indicated in Example 7, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with 1-benzylpiperazine and potassium carbonate in acetonitrile, after chromatography on silica gel and crystallization of the concentrated pure fraction from diisopropyl ether, gives the title compound as a colorless solid; m.p. 79-81° C.; yield 57% of theory. A hydrated hydrochloride can be prepared from isopropanol; m.p. 165° C. (dec.); yield 87% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[3-(4-Benzyl-1-piperazinyl)propylthio]-3-methyl -2-[(4-pyridinylthio)methyl]pyridine | yield 57% | C(C1=CC=CC=C1)N1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C26H32N4S2
